US09371319B2
Preparation 85: 2-Chloro-4-(1-methyl-1H-pyrazol-3-yl)aniline
Tetrakis(triphenylphosphine)palladium (0.046 g, 0.039 mmol) was added to a solution of 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.1 g, 0.394 mmol), 3-iodo-1-methyl-1H-pyrazole (0.123 g, 0.592 mmol) and sodium carbonate (0.125 g, 1.183 mmol) in DME/H2O 3/1 (2.00 mL). The reaction mixture was heated for 1 hour at 135° C. under microwave irradiation before being diluted with EtOAc and quenched with water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude mixture was purified via Biotage silica gel column chromatography eluting with (Cyclohexane/EtOAc 80/20 to 60/40) to afford the title product as a yellow solid (60 mg, 73%). 1H NMR (500 MHz, CDCl3): δ 3.93 (s, 3H), 4.09 (br s, 2H), 6.42 (d, J=2.3 Hz, 1H), 6.79 (d, J=8.3 Hz, 1H), 7.34 (d, J=2.3 Hz, 1H), 7.50 (dd, J=8.3, 2.0 Hz, 1H), 7.71 (d, J=2.0 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 2.35 min, 208 [(M+H+), 100%].

reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.394 mmol, 0.1 g | ClC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
reactant | 3-iodo-1-methyl-1H-pyrazole | 0.592 mmol, 0.123 g | IC1=NN(C=C1)C | C4H5IN2
reactant | sodium carbonate | 1.183 mmol, 0.125 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME H2O | 2.00 mL | COCCOC.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.039 mmol, 0.046 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-(1-methyl-1H-pyrazol-3-yl)aniline | 60 mg, 73% | ClC1=C(N)C=CC(=C1)C1=NN(C=C1)C | C10H10ClN3
